US06248739B1
N-(4-Chlorobenzyl)-1-[2-(dimethylamino)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide, hydrochloride salt
A solution of N-(4-chlorobenzyl-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5 (0.515 g) is dissolved in DMF (10 mL), and K2CO3 (0.778 g) and diisoproplyaminoethyl chloride-hydrochloride (0.56 g) are added. The reaction mixture is heated to 95° C. for 14 h, then allowed to stir at room temperature overnight. The mixture is then poured into H2O and an oil formed, which is isolated by decanting the liquid. The oil is dissolved in MeOH/CH2Cl2, and etheral HCl is added to adjust the pH to 2. The mixture is concentrated in vacuo to give the title compound as the hydrochloride salt.

reactant | 4-chlorobenzyl-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CC2=NC3=CC=C(C=C3C(=C2C(=O)N)O)C#CCO)C=C1 | C20H15ClN2O3
reactant | K2CO3 | 0.778 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diisoproplyaminoethyl chloride-hydrochloride | 0.56 g | Cl.C(C)(C)N(C(C)C)CCCl
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-[2-(dimethylamino)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide, hydrochloride salt | Cl.ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCN(C)C)C=C1 | InChI=1S/C24H24ClN3O3.ClH/c1-27(2)11-12-28-16-21(24(31)26-15-18-5-8-19(25)9-6-18)23(30)20-14-17(4-3-13-29)7-10-22(20)28;/h5-10,14,16,29H,11-13,15H2,1-2H3,(H,26,31);1H
